// Generated for: spectre
// Generated on: Feb 15 13:00:51 2020
// Design library name: inverter
// Design cell name: inv
// Design view name: av_extracted
simulator lang=spectre
global 0 VDD! GND!
parameters vs=1
include "/home/install/FOUNDRY/analog/180nm/models/spectre/gpdk.scs" section=stat

// Library name: inverter
// Cell name: inv
// View name: av_extracted
c1 (\1\:IN VDD!) cmodel c=4.42549e-18
c2 (VDD! \2\:GND!) cmodel c=1.80251e-16
c3 (\1\:OUT \2\:GND!) cmodel c=2.20645e-16
c4 (IN \2\:GND!) cmodel c=2.12039e-16
c5 (\3\:OUT \3\:IN) cmodel c=2.35873e-17
c6 (\2\:IN \2\:VDD!) cmodel c=9.33046e-17
c7 (OUT \2\:GND!) cmodel c=1.17137e-16
c8 (\1\:GND! \3\:IN) cmodel c=2.09715e-17
c9 (\2\:OUT \2\:IN) cmodel c=3.74237e-17
c10 (\3\:OUT \1\:IN) cmodel c=1.33219e-17
c11 (\1\:VDD! \2\:IN) cmodel c=2.6908e-17
c12 (\1\:GND! \1\:IN) cmodel c=2.50968e-17
c13 (\2\:IN \2\:GND!) cmodel c=1.02427e-18
c14 (\1\:IN \2\:VDD!) cmodel c=3.1604e-17
c15 (\1\:GND! \3\:OUT) cmodel c=2.89207e-17
c16 (\2\:OUT \1\:IN) cmodel c=1.7927e-17
c17 (\3\:IN \2\:GND!) cmodel c=9.19528e-17
c18 (\1\:IN \1\:VDD!) cmodel c=1.97401e-17
c19 (\1\:IN \2\:GND!) cmodel c=2.65434e-16
c20 (\1\:IN \1\:OUT) cmodel c=3.4403e-17
c21 (\3\:OUT \2\:GND!) cmodel c=1.00643e-16
c22 (\2\:OUT \2\:VDD!) cmodel c=9.37428e-17
c23 (\1\:VDD! \2\:OUT) cmodel c=5.61293e-17
c24 (\1\:OUT \2\:VDD!) cmodel c=2.31935e-17
c25 (\2\:OUT \2\:GND!) cmodel c=3.20983e-17
c26 (\1\:IN GND!) cmodel c=5.3846e-18
c27 (\1\:VDD! GND!) cmodel c=3.10674e-19
rf1 (\1\:GND! GND!) resistor r=7.4409 tc1=0 tc2=0 c=0
rf2 (GND! \2\:GND!) resistor r=7.2812 tc1=0 tc2=0 c=0
rf3 (\1\:VDD! VDD!) resistor r=7.5146 tc1=0 tc2=0 c=0
rf4 (VDD! \2\:VDD!) resistor r=7.3012 tc1=0 tc2=0 c=0
rf5 (IN \1\:IN) resistor r=6.1067 tc1=0 tc2=0 c=0
rf6 (OUT \1\:OUT) resistor r=0.397 tc1=0 tc2=0 c=0
rf7 (\1\:OUT \2\:OUT) resistor r=7.5542 tc1=0 tc2=0 c=0
rf8 (\1\:OUT \3\:OUT) resistor r=7.4617 tc1=0 tc2=0 c=0
rg1 (\2\:IN \1\:IN) resistor r=49.1381 tc1=0 tc2=0 c=0
rg2 (\1\:IN \3\:IN) resistor r=41.2729 tc1=0 tc2=0 c=0
PM0 (\2\:OUT \2\:IN \1\:VDD! \2\:VDD!) pmos1 w=8e-07 l=1.8e-07 as=4.8e-13 \
        ad=4.8e-13 ps=2.8e-06 pd=2.8e-06 m=(1)*(1)
NM0 (\3\:OUT \3\:IN \1\:GND! \2\:GND!) nmos1 w=4e-07 l=1.8e-07 as=4.4e-13 \
        ad=4.4e-13 ps=2.8e-06 pd=2.8e-06 m=(1)*(1)
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vs start=0 stop=1.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
