_vIN (IN 0) vsource val0=0 val1=5 period=2u delay=0 rise=200n fall=200n type=pulse
_vGND! (GND! 0) vsource dc=0 type=dc
_vVDD! (VDD! 0) vsource dc=5 type=dc
